US04101391
A solution of 5.0 grams (0.011 mole) of 1,2-bis(3,5-di-t-butyl-4-hydroxyphenyl)ethane dissolved in 30 milliliters of tetralin containing 0.2 gram (0.0012 mole) of p-toluensulfonic acid was heated to reflux for a total of 3 hours. The reaction mixture was cooled and poured into 50 milliliters of water. The precipitated solid was collected by suction filtration and recrystallized from ethanol to yield 2.3 grams (97 percent) of bisphenol E, melting point 199°-200° C.

reactant | 1,2-bis(3,5-di-t-butyl-4-hydroxyphenyl)ethane | 0.011 mole, 5.0 grams | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C30H46O2
reactant | tetralin | 0.0012 mole, 30 milliliters, 0.2 gram | C1CCCC2=CC=CC=C12 | C10H12
reactant | water | 50 milliliters | O | H2O
solvent | p-toluensulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | bisphenol E | 2.3 grams, 97 percent | CC(C1=CC=C(C=C1)O)C2=CC=C(C=C2)O | C14H14O2
